US06046235
S-(4-Methylbenzyl)-L-cysteine (reference compound No. 2-1)
L-Cysteine hydrochloride monohydrate (2.0 g) is dissolved in a 2 N aqueous sodium hydroxide solution (11.4 ml). To the solution is added a solution of α-bromo-p-xylene (2.3 g) in ethanol (10 ml). The mixture is stirred at room temperature for 40 minutes, and precipitating crystals are filtered off. The obtained crystals are purified by recrystallization to give the titled compound.

reactant | L-Cysteine hydrochloride monohydrate | 2.0 g | O.Cl.N[C@@H](CS)C(=O)O
reactant | α-bromo-p-xylene | 2.3 g | BrCC1=CC=C(C=C1)C | C8H9Br
solvent | sodium hydroxide | 2 N, 11.4 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | S-(4-Methylbenzyl)-L-cysteine | CC1=CC=C(CSC[C@H](N)C(=O)O)C=C1 | C11H15NO2S
